US04783453
Two solutions of p-nitrobenzyl 2-azidocarbapen-2-em-3-carboxylate (52 mg and 24 mg, 231 micromol) and 2-acetoxy-1-propene (0.25 ml each) in dichloromethane were kept 2.5 days at ambient temperature. The mixtures were combined, filtered through florisil, and evaporated under vacuum. The residue was chromatographed on four 20 cm×20 cm 250 micron silica gel preparative thin layer chromatography plates developed with 5:1 (v/v) diethyl ether-ethyl acetate. The band centered at Rf 0.25 was eluted with ethyl acetate and the eluate evaporated under vacuum to provide 15.9 mg (17%) p-nitrobenzyl 2-(2-acetoxy-2-methylaziridin-1-yl)-carbapen-2-em-3-carboxylate; IR (CH2Cl2): 1770, 1735 cm-1, NMR (CDCl3): 1.69 s (3H), 2.11 s (3H), 2.16 d (J=7 Hz, 1H), 2.22 d (J=7 Hz, 1H), 2.74 dd (J=8 Hz, J2 =17 Hz, 1H), 2.79 dd(J1 =3 Hz, J2 =16 Hz, 1H), 2.84 dd (J1 =5 Hz, J2 =17 Hz, 1H), 3.21 dd (J1 =6 Hz, J2 =16 Hz, 1H), 4.30 m (1H), 5.29 d (J=12 Hz, 1H), 5.35 d (J=12 Hz, 1H), 7.57 d (J=9 Hz, 2H), 8.29 d (J=9 Hz, 2H); MS (m/e): 402 (M+), 359, 342, 316, 300, 274, 2H); MS (m/e): 402 (M ) 258, 222.

reactant | p-nitrobenzyl 2-azidocarbapen-2-em-3-carboxylate | 231 micromol, 52 mg | N(=[N+]=[N-])C=1C[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C2)=O | C14H11N5O5
reactant | 2-acetoxy-1-propene | 0.25 ml | C(C)(=O)OC(=C)C | C5H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | p-nitrobenzyl 2-(2-acetoxy-2-methylaziridin-1-yl)-carbapen-2-em-3-carboxylate | 15.9 mg, 17% | C(C)(=O)OC1(N(C1)C=1C[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C2)=O)C | C19H19N3O7
